US07592358B2
37.1a. 2-(4-bromophenylethynyl)-5-(4-chlorophenyl)pyridine
The product was obtained analogously to Example 7.1e starting from 4-bromoiodobenzene and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 7.10 g (90% of theoretical); C19H11BrClN (M=368.654); calc.: molpeak (M+H)+: 368/370/372 (BrCl); found: molpeak (M+H)+: 368/370/372 (BrCl); HPLC-MS: 7.60 minutes (method A).

reactant | 4-bromoiodobenzene | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
reactant | BrCl | BrCl | BrCl
product | 2-(4-bromophenylethynyl)-5-(4-chlorophenyl)pyridine | BrC1=CC=C(C=C1)C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl | C19H11BrClN
